US07311948B2
A: (4-Carboxy-benzyl)-triphenylphosphonium bromide (14)
10.7 g (50 mmole) of α-bromo-4-toluoic acid and 13.1 g (50 mmole) of triphenylphosphine were dissolved in 105 ml of toluene under a nitrogen atmosphere. The mixture was heated at 115° C. for 5 hours. After cooling, the mixture was filtered and dried in a vacuum-oven at 60° C. and 22.6 g of a white solid were obtained (yield 94.5%).

reactant | α-bromo-4-toluoic acid | 50 mmole, 10.7 g | BrCC1=CC=C(C=C1)C(=O)O | C8H7BrO2
reactant | triphenylphosphine | 50 mmole, 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 105 ml | C1(=CC=CC=C1)C | C7H8
product | (4-Carboxy-benzyl)-triphenylphosphonium bromide | 22.6 g, yield 94.5% | [Br-].C(=O)(O)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C26H21O2P.BrH/c27-26(28)22-18-16-21(17-19-22)20-29(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-19H,20H2;1H
